US04849419
4-Nitrobenzyl 2-aminoethylcarbamate hydrochloride
A mixture of 355 mg of 1,2-di(4-nitrobenzyloxycarbonylamino)ethane, 4 ml of acetic acid and 0.5 ml of 11M-hydrochloric acid was heated under reflux for 2.5 hours, and then lyophilised in vacuo. The solid residue was partitioned between ethyl acetate and water, and the insoluble material removed by filtration. The aqueous layer was separated and washed with ethyl acetate and then lyophilised to afford 139 mg of an off-white solid. Recrystallisation from ethanol afforded 100 mg of the title compound, m.p. 170°-171° C. dec.

reactant | 1,2-di(4-nitrobenzyloxycarbonylamino)ethane | 355 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C18H18N4O8
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 4-Nitrobenzyl 2-aminoethylcarbamate hydrochloride | 139 mg | Cl.NCCNC(OCC1=CC=C(C=C1)[N+](=O)[O-])=O | InChI=1S/C10H13N3O4.ClH/c11-5-6-12-10(14)17-7-8-1-3-9(4-2-8)13(15)16;/h1-4H,5-7,11H2,(H,12,14);1H
